US06960588B1
A32. {3-[4-(3-Carboxymethoxyprop-1-ynyl)phenyl]prop-2-ynyloxy}acetic acid
An aqueous 2 N NaOH solution (10 ml) is added dropwise to a solution of methyl {3-[4-(3-carboxymethoxyprop-1-ynyl)phenyl]prop-2-ynyloxy)acetate (A31; 0.88 g, 2.7 mmol) in methanol (50 ml), and the mixture is stirred at RT for 2 h. The pH of the reaction solution is then adjusted to pH 2 using an aqueous 2 N HCl solution. The solution is extracted with ethyl acetate (30 ml, 2×) and washed with a saturated NaCl solution (30 ml). The combined organic phases are dried over MgSO4, filtered off and concentrated under reduced pressure. This gives the title compound (0.75 g) as a colorless powder.

reactant | NaOH | 2 N, 10 ml | [OH-].[Na+]
reactant | methyl {3-[4-(3-carboxymethoxyprop-1-ynyl)phenyl]prop-2-ynyloxy)acetate | 2.7 mmol, 0.88 g | C(=O)(O)COCC#CC1=CC=C(C=C1)C#CCOCC(=O)OC | C17H16O6
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | {3-[4-(3-Carboxymethoxyprop-1-ynyl)phenyl]prop-2-ynyloxy}acetic acid | 0.75 g | C(=O)(O)COCC#CC1=CC=C(C=C1)C#CCOCC(=O)O | C16H14O6
